US06967204B2
Sodium pellets (4.6 g, 200 mmol) were dissolved in ethanol (165 ml) under nitrogen at room temperature and a solution of diethyloxalate (27.2 ml, 200 mmol) in tert-butyl-methyl ketone (20.1 g, 200 mmol) was added dropwise at room temperature over 15 minutes. The reaction was diluted with ethanol (100 ml), heated to 60° C. and stirred at this temperature for 2 hours. After cooling to room temperature the reaction was stirred for 64 hours, poured onto ice-cold 2N HCl (200 ml) and extracted with diethylether (3×200 ml). The combined organic extracts were washed with water, dried over MgSO4 and concentrated under reduced pressure to give 4,4-dimethyl-3-oxo-pentanoic acid ethyl ester (36.7 g) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ=6.48 (1H, s), 4.26-4.37 (2H, quart), 1.29-1.38 (3H, t), 1.17 (9H, s) ppm. LRMS (electrospray): m/z [M+Na]+ 223, [M−H]+ 199.

reactant | Sodium | [Na] | Na
reactant | diethyloxalate | 200 mmol, 27.2 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | tert-butyl-methyl ketone | 200 mmol, 20.1 g | C(C)(C)(C)C(=O)C | C6H12O
solvent | ethanol | 165 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4,4-dimethyl-3-oxo-pentanoic acid ethyl ester | 36.7 g | C(C)OC(CC(C(C)(C)C)=O)=O | C9H16O3
